US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-oxo-2-(2-thienyl)ethyl]piperidine
12.0 g of 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-hydroxy-2-(2-thienyl)ethyl]piperidine and 30.2 ml of triethylamine were dissolved in 72 ml of dimethyl sulfoxide, and a mix solution of 17.2 g of sulfur trioxide-pyridine complex and 90 ml of dimethyl sulfoxide was added dropwise thereinto under ice-cooling. After completion of the dropwise addition, the mixture was further stirred at room temperature for 30 minutes. An aqueous sodium bicarbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), to give 9.6 g of the title compound as a pale yellow oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-hydroxy-2-(2-thienyl)ethyl]piperidine | 12.0 g | COC1=NC=CC=C1CN1CCC(CC1)CC(C=1SC=CC1)O | C18H24N2O2S
reactant | triethylamine | 30.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethyl sulfoxide | 72 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 90 ml | CS(=O)C | C2H6OS
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-oxo-2-(2-thienyl)ethyl]piperidine | 9.6 g | COC1=NC=CC=C1CN1CCC(CC1)CC(C=1SC=CC1)=O | C18H22N2O2S
